US05602124
To a stirred solution of 10,11-dihydro-dibenz[b,f][1,4]oxazepin-11-one (0.4 g; 1.9 mmol; Aldrich) in dry toluene (20 mL) at room temperature was added 2,6-dimethyl piperazine (0.99 g; 8.7 mmol; Aldrich) followed by the dropwise addition of TiCl4 (1M in toluene, 2.27 mL; 2.27 mmol). The reaction mixture was refluxed for 2 hours, cooled to room temperature and then poured into an ammonium hydroxide solution (30%, 50 mL). The resulting mixture was extracted with dichloromethane (4×75 mL), and the combined organic phases were then dried (K2CO3) and concentrated. Purification of the product was conducted on silica gel using CHCl3 :MeOH (94:6) eluant to give 0.353 g (60%) of 11-(3,5-dimethyl-l-piperazinyl)-dibenz [b,f][1,4]oxazepine as a pale yellow solid; m.p. 112°-114° C.

reactant | 10,11-dihydro-dibenz[b,f][1,4]oxazepin-11-one | 1.9 mmol, 0.4 g | C1=CC=CC2=C1C(NC1=C(O2)C=CC=C1)=O | C13H9NO2
reactant | 2,6-dimethyl piperazine | 8.7 mmol, 0.99 g | CC1NC(CNC1)C | C6H14N2
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | 2.27 mmol, 1M, 2.27 mL | Cl[Ti](Cl)(Cl)Cl
product | 11-(3,5-dimethyl-l-piperazinyl)-dibenz [b,f][1,4]oxazepine | 0.353 g, 60% | CC1CN(CC(N1)C)C1=NC2=C(OC3=C1C=CC=C3)C=CC=C2 | C19H21N3O
